US04107175
3-[(5-Chloro-1,3-benzodithiol-2-ylidene)amino]propanoic acid, ethyl ester
A solution of 5-chloro-N-methyl-N-phenyl-1,3-benzo-dithiol-2-iminium iodide (9.97g), 3-aminopropanoic acid, ethyl ester, hydrochloride (3.68g) and anhydrous sodium carbonate (2.54g) in 250 ml of anhydrous dimethylformamide is heated at 120° C under nitrogen for 3 hours, then left stirring at room temperature for 2 days. The reaction mixture is poured into water (1400 ml) and extracted with three 200 ml portions of dichloromethane. The combined dichloromethane extracts are washed with three 100 ml portions of water, dried over sodium sulfate, and concentrated in vacuo. The resultant oil is chromatographed on silica gel (1000 ml), eluting with dichloromethane/pentane (1:1). The fractions containing product with Rf =0.25 (silica gel, dichloromethane) are concentrated and the resultant solid recrystallized twice from pentane to yield 1.1g of the title compound, melting point 64°-65° C.

reactant | 5-chloro-N-methyl-N-phenyl-1,3-benzo-dithiol-2-iminium iodide | 9.97g | [I-].ClC1=CC2=C(SC(S2)=[N+](C2=CC=CC=C2)C)C=C1
reactant | 3-aminopropanoic acid, ethyl ester, hydrochloride | 3.68g | Cl.NCCC(=O)OCC
reactant | sodium carbonate | 2.54g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 1400 ml | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 3-[(5-Chloro-1,3-benzodithiol-2-ylidene)amino]propanoic acid, ethyl ester | 1.1g | ClC1=CC2=C(SC(S2)=NCCC(=O)OCC)C=C1 | C12H12ClNO2S2
